US05610289
3'-Deoxy-3'-C-formyl-5'-O-phthalimidothymidine
3'-Deoxy-3'-C-[(methoxyimino)methyl]-5'-O-phthalimidothymidine upon treated with CH3CHO in MeOH regenerated the 3'-C-formyl group. The product on purification by silica gel column chromatography furnished the title compound as homogeneous material in 81% overall yield for 3 steps, 1H NMR (CDCl3) δ9.95 (s, 1, CH=O); 8.62 (br s, 1, NH); 7.71-7.90 (m, 5, aromatic H, H-6); 6.06 (t, 1, H-1' J1'2' =6.61 Hz, J1'2' =6.6 Hz); 4.36-4.73 (m, 3, H-4', H-5',5"); 3.78 (m, 1, H-3'); 2.20-2.90 (m, 2, H-2",2"); 1.98 (s, 3, C5CH3).

reactant | 3'-Deoxy-3'-C-[(methoxyimino)methyl]-5'-O-phthalimidothymidine | CON=C[C@H]1C[C@@H](O[C@@H]1CON1C(C=2C(C1=O)=CC=CC2)=O)N2C(=O)NC(=O)C(C)=C2 | C20H20N4O7
reactant | CH3CHO | CC=O | C2H4O
solvent | MeOH | CO | CH4O
product | 3'-Deoxy-3'-C-formyl-5'-O-phthalimidothymidine | C(=O)[C@H]1C[C@@H](O[C@@H]1CON1C(C=2C(C1=O)=CC=CC2)=O)N2C(=O)NC(=O)C(C)=C2 | C19H17N3O7
